US08309593B2
Preparation of EII: (R)-benzyl 3,8,8,9,9-pentamethyl-4-oxo-2,7-dioxa-3-aza-8-siladecan-5-ylcarbamate
Imidazole (1.8 g, 26.5 mmol) was added to a solution of (R)-benzyl 3-hydroxy-1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (3 g, 10.6 mmol) in DMF (dimethyl formamide, 15 mL) followed by TBDMSiCl (tert-butyldimethylsilyl chloride, 2.4 g, 15.95 mmol). The reaction stirred for 12 hrs at room temperature under nitrogen atmosphere and was quenched with aqueous ammonium chloride (100 ml). The aqueous layer was extracted with methylene chloride (200 mL) and ethyl acetate (100 mL) and the organic layers were washed with brine and concentrated. The crude product was purified by column chromatography using 10% EtOAc (ethylacetate)-hexanes to give an oil (3 g, 74% yield). 1H NMR (400 MHz, CDCl3) δ═O (s, 6H), 0.9 (s, 9H), 3.2 (s, 3H), 3.8 (s, 3H), 3.8-3.9 (m, 2H), 4.8 (broad s, 1H), 5.1 (q, 2H), 5.7 (d, 1H), 7.2-7.4 (m, 5H).

reactant | Imidazole | 26.5 mmol, 1.8 g | N1C=NC=C1 | C3H4N2
reactant | (R)-benzyl 3-hydroxy-1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 10.6 mmol, 3 g | OC[C@H](C(=O)N(C)OC)NC(OCC1=CC=CC=C1)=O | C13H18N2O5
reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (R)-benzyl 3,8,8,9,9-pentamethyl-4-oxo-2,7-dioxa-3-aza-8-siladecan-5-ylcarbamate | 3 g, 74% yield | CN(OC)C([C@@H](CO[Si](C(C)(C)C)(C)C)NC(OCC1=CC=CC=C1)=O)=O | C19H32N2O5Si
